US04242512
To a stirred solution of 3.84 g (0.04 mole) of 3(2H)-pyridazinone, 2.33 g (0.044 mole) of acrylonitrile in 50 ml of ethanol, 1 ml of Triton-B (trimethyl benzylammonium hydroxide, 40% methanol solution) was added dropwise. The mixture was stirred for 2 hours at 60° C. and then evaporated to dryness in a vacuum on a steam bath, giving a dark orange oil. The oil was dissolved in ethanol, shaken with Norit and filtered. The filtrate was distilled. Recrystallization of the residue from ethanol and isopropyl ether gave 4.7 g (79% yield) of 3-(3-oxo-2-pyridazinyl)-propionitrile in the form of pale yellow crystals, m.p. 75°-76° C.

reactant | 3(2H)-pyridazinone | 0.04 mole, 3.84 g | N=1NC(C=CC1)=O | C4H4N2O
reactant | acrylonitrile | 0.044 mole, 2.33 g | C(C=C)#N | C3H3N
reactant | trimethyl benzylammonium hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | Norit | C | CH4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 3-(3-oxo-2-pyridazinyl)-propionitrile | 4.7 g, 79% yield | O=C1N(N=CC=C1)CCC#N | C7H7N3O
